* C:\Program Files\gEDA\gEDA\bin\gnetlist.exe -g spice-sdb -o screamer-2nd-try-ltspice.net screamer-2nd-try.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ../models/1N4148.mod vvvvvvvv
.MODEL 1N4148 D
+ IS = 4.352E-9
+ N = 1.906
+ BV = 110
+ IBV = 0.0001
+ RS = 0.6458
+ CJO = 7.048E-13
+ VJ = 0.869
+ M = 0.03
+ FC = 0.5
+ TT = 3.48E-9
*^^^^^^^^  End of included SPICE model from ../models/1N4148.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/1N4007.mod vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 30, 03
* MODEL FORMAT: PSpice
.MODEL D1n4007 d
+IS=7.02767e-09 RS=0.0341512 N=1.80803 EG=1.05743
+XTI=5 BV=1000 IBV=5e-08 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-07
+KF=0 AF=1


*^^^^^^^^  End of included SPICE model from ../models/1N4007.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/RC4558.301 vvvvvvvv
* RC4558 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 09/08/89 AT 16:07
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT RC4558   1 2 3 4 5
*
  C1   11 12 2.664E-12
  C2    6  7 20.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 6.365E6 -6E6 6E6 6E6 -6E6
  GA 6  0 11 12 418.0E-6
  GCM   0  6 10 99 6.705E-9
  IEE   3 10 DC 34.28E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100.0E3
  RC1   4 11 2.652E3
  RC2   4 12 2.652E3
  RE1  13 10 1.122E3
  RE2  14 10 1.122E3
  REE  10 99 5.834E6
  RO1 8  5 125
  RO2 7 99 125
  RP    3  4 24.67E3
  VB    9  0 DC 0
  VC    3 53 DC 2.600
  VE   54  4 DC 2.600
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=121.4)
.ENDS
*^^^^^^^^  End of included SPICE model from ../models/RC4558.301 ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/Q2N3904.lib vvvvvvvv
*		Model for 2N3904 NPN BJT (from Eval library in Pspice)
.model Q2N3904	NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+		Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+		Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
*^^^^^^^^  End of included SPICE model from ../models/Q2N3904.lib ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/pot.mod vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT pot 1 2 3 res=100k x=0.5
*==============  Begin SPICE netlist of main design ============
R2 2 3 {(res)*(1-x)}
R1 1 2 {(res)*(x)}
.ends pot
*******************************
*^^^^^^^^  End of included SPICE model from ../models/pot.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/DLED.mod vvvvvvvv
.model Dled D (IS=1a RS=3.3 N=1.8)
*^^^^^^^^  End of included SPICE model from ../models/DLED.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/SPDT.mod vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT SPDT 2 1 3 x=1
*==============  Begin SPICE netlist of main design ============
R2 1 3 {10M*(1.0001-x)}
R1 1 2 {10M*(x+0.0001)}
.ends SPDT x=1
*******************************
*^^^^^^^^  End of included SPICE model from ../models/SPDT.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/3PDT.mod vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT 3PDT 2 1 3 5 4 6 8 7 9 x=1
*==============  Begin SPICE netlist of main design ============
R6 7 9 {10M*(1.0001-x)}
R5 7 8 {10M*(x+0.0001)}
R4 4 6 {10M*(1.0001-x)}
R3 4 5 {10M*(x+0.0001)}
R2 1 3 {10M*(1.0001-x)}
R1 1 2 {10M*(x+0.0001)}
.ends 3PDT x=1
*******************************
*^^^^^^^^  End of included SPICE model from ../models/3PDT.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
RFAKE2 0 31 10M
RFAKE1 28 0 10M
;Vinput Vin 0 dc 0 ac 1 sin(0 1 300)
Vinput Vin 0 wavefile="D:/Perso/Effects/Eon/Sound/test.wav" chan=0
VDC 20 0 DC 9V
.save V(Vin) V(Vout)
.tran 2.45
.wave "D:/Perso/Effects/Eon/Sound/tsmout_to30_dr80_le80_clip_fat_on.wav" 16 22050 Vout
.options TEMP=25
XTONE 17 25 6 pot res=20k x=0.3
XDRIVE 18 4 4 pot res=500k x=0.8
XLEVEL Vcc2 24 7 pot res=100k x=0.8
X3.3 21 Vout 29 SPDT x=0
X3.2 30 22 31 SPDT x=0
X3.1 12 Vin 29 SPDT x=0
X2_CLIP 28 23 19 SPDT x=1
X1_FAT 27 11 26 SPDT x=1
Q2 Vcc 13 16 Q2N3904
Q1 Vcc 9 15 Q2N3904
X1.2 3 6 Vcc 0 5 RC4558
X1.1 14 23 Vcc 0 4 RC4558
DLED1 1 0 DLED
C13 27 23 1u
C14 Vcc 0 470u
C12 Vcc2 unconnected_pin-1 56u
C10 20 21 10u
C9 15 14 1u
C8 5 8 1u
C7 26 23 220n
C6 0 3 220n
C5 25 2 220n
C4 24 13 100n
C3 0 Vcc 100n
C2 23 4 47p
C1 12 10 22n
D4 0 Vcc D1N4007
D3 23 4 1N4148
D2 4 23 1N4148
D1 23 19 1N4148
RLed 22 1 10k
RB 0 21 10k
RA 20 16 100
R19 19 18 10k
R18 17 Vcc2 10k
R17 0 Vcc2 10k
R16 0 16 10k
R15 Vcc Vcc2 10k
R14 0 15 10k
R13 Vcc2 14 10k
R12 13 Vcc2 470k
R11 9 Vcc2 470k
R10 0 12 2.2M
R7 Vcc2 11 2.2k
R6 10 9 1k
R5 8 7 1k
R4 6 5 1k
R3 4 3 1k
R2 2 0 220
R1 1 Vcc 10
.end
